US08871797B2
4-Fluoro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole (109 mg, 0.434 mmol) in EtOH (10 mL) was treated with Pd—C (10 wt. %, Degussa) and a balloon of H2 was allowed to bubble through the slurry. The reaction mixture was filtered through celite and the solvent was removed under reduced pressure to afford 93 mg (97%) of 3-(4-fluoro-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine as a light brown oil. LCMS m/z (%)=222 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ: 7.38 (d, JH,F=4.4 Hz, 1H), 6.86 (d, J=8.8 Hz, 1H), 6.78 (dd, J1=8.8 Hz, J2=2.8 Hz, 1H), 6.63 (d, J=2.8 Hz, 1H), 3.74 (s, 3H), 3.68 (s, 3H), 3.53 (s, 2H). 19F NMR (376 MHz, CDCl3) δ: −175.50 (d, JH,F=5.3 Hz, 1F).

reactant | 4-Fluoro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 0.434 mmol, 109 mg | FC=1C=NN(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C11H10FN3O3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | 3-(4-fluoro-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine | 93 mg, 97% | FC1=C(N(N=C1)C)C=1C=C(C=CC1OC)N | C11H12FN3O
